US05877202
Methyl [5-methoxy-1-benzyl-2-(4-fluorophenyl)-indol-3-yl]-acetate
Prepare by a method similar to Example 48 using methyl [5-methoxy-2-(4-fluorophenyl)-indol-3-yl]-acetate and benzyl bromide.

reactant | methyl [5-methoxy-2-(4-fluorophenyl)-indol-3-yl]-acetate | COC=1C=C2C(=C(NC2=CC1)C1=CC=C(C=C1)F)CC(=O)OC | C18H16FNO3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | Methyl [5-methoxy-1-benzyl-2-(4-fluorophenyl)-indol-3-yl]-acetate | COC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C1=CC=C(C=C1)F)CC(=O)OC | C25H22FNO3
